US07071221B2
Step A: Methyl 3-[4-(2-chloroethoxy)phenyl]-2-ethoxy-2-propenoate
To 150 ml of freshly distilled tetrahydrofuran, placed in a bath of ice-cold water at 0° C., under argon, add sodium hydride (0.0473 mol) and then methyl 2-ethoxy-2-diethylphosphonoacetate (0.0394 mol) while maintaining the temperature at 0° C. After stirring for 1 hour, add 4-(2-chloroethoxy)benzaldehyde (0.0394 mol) dissolved in a minimum of freshly distilled tetrahydrofuran, under argon at 0° C. Stir the solution for 1 hour at 0° C. Allow the solution to return to ambient temperature while stirring for 16 hours. Evaporate off the tetrahydrofuran. Add 100 ml of water and then extract with 100 ml of dichloromethane twice. The organic phase is washed with water, dried over MgSO4 and then evaporated. The oily product is purified over a column of silica gel using the eluant mixture: petroleum ether/dichloromethane (1/1). The title compound is obtained in the form of an oil.

reactant | sodium hydride | 0.0473 mol | [H-].[Na+]
reactant | methyl 2-ethoxy-2-diethylphosphonoacetate | 0.0394 mol | C(C)OC(C(=O)OC)P(=O)(OCC)OCC | C9H19O6P
reactant | 4-(2-chloroethoxy)benzaldehyde | 0.0394 mol | ClCCOC1=CC=C(C=O)C=C1 | C9H9ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl 3-[4-(2-chloroethoxy)phenyl]-2-ethoxy-2-propenoate | ClCCOC1=CC=C(C=C1)C=C(C(=O)OC)OCC | C14H17ClO4
